US08138175B2
F) (S)-4-(3,4-Dichloro-phenyl)-1-[4-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-butyl]-3-methyl-piperazin-2-one
Trifluoroacetic acid (255 mg, 2.24 mmol) was added at RT to a solution of (S)-2-(3,4-dichloro-phenylamino)-N-(2,2-dimethoxy-ethyl)-N-[4-((S)-4-triethylsilanyloxy-6-aza-spiro[2.5]oct-6-yl)-butyl]-propionamide (92 mg, 0.15 mmol), then after 30 min triethylsilane (87 mg, 0.75 mmol) was added. The reaction mixture was stirred for 16 h, then cooled to 0° C. and treated with triethylamine (226 mg, 2.24 mmol). The ice bath was removed, then after 15 min the reaction mixture was partitioned between CH2Cl2 and sat. aq. NaHCO3 solution. The organic layer was dried (MgSO4), filtered, and evaporated. Chromatography (SiO2; CH2Cl2→CH2Cl2/MeOH/25% aq. ammonia solution 80:20:1) afforded the title compound (34 mg, 52%). Light yellow gum, MS: 440.3 (M+H)+.

reactant | Trifluoroacetic acid | 2.24 mmol, 255 mg | FC(C(=O)O)(F)F | C2HF3O2
reactant | (S)-2-(3,4-dichloro-phenylamino)-N-(2,2-dimethoxy-ethyl)-N-[4-((S)-4-triethylsilanyloxy-6-aza-spiro[2.5]oct-6-yl)-butyl]-propionamide | 0.15 mmol, 92 mg | ClC=1C=C(C=CC1Cl)N[C@H](C(=O)N(CCCCN1C[C@H](C2(CC2)CC1)O[Si](CC)(CC)CC)CC(OC)OC)C | C30H51Cl2N3O4Si
reactant | triethylsilane | 0.75 mmol, 87 mg | C(C)[SiH](CC)CC | C6H16Si
reactant | triethylamine | 2.24 mmol, 226 mg | C(C)N(CC)CC | C6H15N
product | (S)-4-(3,4-Dichloro-phenyl)-1-[4-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-butyl]-3-methyl-piperazin-2-one | 34 mg, 52% | ClC=1C=C(C=CC1Cl)N1[C@H](C(N(CC1)CCCCN1C[C@H](C2(CC2)CC1)O)=O)C | C22H31Cl2N3O2
